Series Network KVL Measurements

V1 vin 0 DC 12
R1 vin n1 1k
R2 n1 n2 2k
R3 n2 0 3k

.dc V1 0 12 1

.meas dc vr1_at_12 FIND v(vin,n1) AT=12
.meas dc vr2_at_12 FIND v(n1,n2) AT=12
.meas dc vr3_at_12 FIND v(n2,0) AT=12
.meas dc current_at_12 FIND i(v1) AT=12

.end