Voltage Divider with DC Measurement

V1 vin 0 DC 10
R1 vin vout 1k
R2 vout 0 1k

.dc V1 0 10 1

.print dc v(vin) v(vout) i(v1)

.meas dc vout_at_10 FIND v(vout) AT=10
.meas dc source_current_at_10 FIND i(v1) AT=10

.end