Parallel Network Exercise

* Source
V1 vin 0 DC 15

* Parallel resistors
R1 vin 0 1k
R2 vin 0 3k
R3 vin 0 5k

* DC sweep
.dc V1 0 15 1

* Voltage measurement
.meas dc vin_at_15 FIND v(vin) AT=15

* Source current
.meas dc isource_at_15 FIND i(V1) AT=15

.end