Power Measurement and Conservation

* DC voltage source
V1 vin 0 DC 10

* Ideal 0 V current sensor
VSENSE1 vin nr1 0

* Load resistor
R1 nr1 0 5k

* DC sweep
.dc V1 0 10 1

* ------------------------------------------
* Raw measurements at V1 = 10 V
* ------------------------------------------

.meas dc vin_at_10 FIND v(vin) AT=10
.meas dc ir_at_10 FIND i(VSENSE1) AT=10
.meas dc isource_at_10 FIND i(V1) AT=10

* ------------------------------------------
* Derived power measurements
* ------------------------------------------

.meas dc presistor_at_10 PARAM='vin_at_10*ir_at_10'
.meas dc psource_at_10 PARAM='vin_at_10*isource_at_10'

* ------------------------------------------
* Power conservation residual
* ------------------------------------------

.meas dc power_error PARAM='presistor_at_10+psource_at_10'

.end