Series Network Exercise

* Source
V1 vin 0 DC 20

* Series resistors
R1 vin n1 2k
R2 n1  n2 3k
R3 n2  0  5k

* DC sweep
.dc V1 0 20 1

* Node voltages at V1 = 20 V
.meas dc vin_at_20 FIND v(vin) AT=20
.meas dc vn1_at_20 FIND v(n1) AT=20
.meas dc vn2_at_20 FIND v(n2) AT=20

* Voltage drops computed from node voltages
.meas dc vr1_at_20 PARAM='vin_at_20-vn1_at_20'
.meas dc vr2_at_20 PARAM='vn1_at_20-vn2_at_20'
.meas dc vr3_at_20 PARAM='vn2_at_20'

* Source current
.meas dc isource_at_20 FIND i(V1) AT=20

.end