Series Network - Automated Measurements

V1 vin 0 DC 12

R1 vin n1 1k
R2 n1  n2 2k
R3 n2  0  3k

.dc V1 0 12 1

.meas dc vin_at_12 FIND v(vin) AT=12
.meas dc vn1_at_12 FIND v(n1) AT=12
.meas dc vn2_at_12 FIND v(n2) AT=12

.meas dc vr1_at_12 FIND v(vin,n1) AT=12
.meas dc vr2_at_12 FIND v(n1,n2) AT=12
.meas dc vr3_at_12 FIND v(n2) AT=12
.meas dc isource_at_12 FIND i(V1) AT=12
.end