Series Parallel Network - KVL and KCL

* DC voltage source
V1 vin 0 DC 12

* Current sensor and series resistor
VSENSE1 vin nr1 0
R1 nr1 n1 1k

* Parallel branch 1
VSENSE2 n1 nr2 0
R2 nr2 0 2k

* Parallel branch 2
VSENSE3 n1 nr3 0
R3 nr3 0 2k

* DC sweep
.dc V1 0 12 1

* Node voltages
.meas dc vin_at_12 FIND v(vin) AT=12
.meas dc vn1_at_12 FIND v(n1) AT=12

* Branch currents
.meas dc ir1_at_12 FIND i(VSENSE1) AT=12
.meas dc ir2_at_12 FIND i(VSENSE2) AT=12
.meas dc ir3_at_12 FIND i(VSENSE3) AT=12

* Source current
.meas dc isource_at_12 FIND i(V1) AT=12

* Voltage drops
.meas dc vr1_at_12 PARAM='vin_at_12-vn1_at_12'
.meas dc vr2_at_12 PARAM='vn1_at_12'
.meas dc vr3_at_12 PARAM='vn1_at_12'

* KCL residual
.meas dc kcl_error PARAM='ir1_at_12-ir2_at_12-ir3_at_12'

* KVL residual - loop V1-R1-R2
.meas dc kvl_error_r2 PARAM='vin_at_12-vr1_at_12-vr2_at_12'

* KVL residual - loop V1-R1-R3
.meas dc kvl_error_r3 PARAM='vin_at_12-vr1_at_12-vr3_at_12'

.end