VCCS Transconductance Example

* Independent input voltage
V1 vin 0 DC 2

* Voltage Controlled Current Source
* Iout = gm * Vin
* gm = 2 mS
G1 0 vout vin 0 2m

* Output load
RL vout 0 2k

* Sweep input voltage
.dc V1 0 4 0.5

* Raw measurements at Vin = 2 V
.meas dc vin_at_2 FIND v(vin) AT=2
.meas dc vout_at_2 FIND v(vout) AT=2

* Derived output current from Ohm's law
.meas dc iout_at_2 PARAM='vout_at_2/2000'

* Derived transconductance
.meas dc gm_measured PARAM='iout_at_2/vin_at_2'

* Derived voltage gain
.meas dc gain_at_2 PARAM='vout_at_2/vin_at_2'

.end