VCVS Voltage Amplifier

* Independent input voltage
V1 vin 0 DC 2

* Voltage Controlled Voltage Source
* Vout = 5 * Vin
E1 vout 0 vin 0 5

* Output load
RL vout 0 5k

* DC sweep of input source
.dc V1 0 4 0.5

* Raw node voltage measurements
.meas dc vin_at_2 FIND v(vin) AT=2
.meas dc vout_at_2 FIND v(vout) AT=2

* Derived voltage gain
.meas dc gain_at_2 PARAM='vout_at_2/vin_at_2'

.end