Voltage Source versus Current Source

* ==========================================
* CIRCUIT A - Voltage source
* ==========================================

V1 va 0 DC 10
R1 va 0 5k


* ==========================================
* CIRCUIT B - Current source
* ==========================================

I1 0 vb DC 2m
R2 vb 0 5k


* Operating point
.op

.end