Voltage Divider - First Measurements

V1 vin 0 DC 12

R1 vin vout 2k
R2 vout 0 1k

.dc V1 0 12 1

.meas dc vout_at_12 FIND v(vout) AT=12
.meas dc vin_at_12  FIND v(vin)  AT=12
.meas dc vout_at_6  FIND v(vout) AT=6

.end